US04219660
Preparation of 4-nitro-1-methoxy-3-methyl-2-butene
0.1 Mol of 1-nitro-2-methyl-1,3-butadiene was added to a solution of 0.1 Mol of sodium in methanol and stirred overnight. The reaction mixture was quenched in ice and extracted with methylene chloride. The oily residue was purified via column chromatography. The product was obtained as a yellow liquid.

reactant | 1-nitro-2-methyl-1,3-butadiene | 0.1 Mol | [N+](=O)([O-])C=C(C=C)C | C5H7NO2
reactant | sodium | 0.1 Mol | [Na] | Na
reactant | methanol | CO | CH4O
product | 4-nitro-1-methoxy-3-methyl-2-butene | [N+](=O)([O-])CC(=CCOC)C | C6H11NO3
